US07279487B2
Step 4: Preparation of 1-{2-[(dimethylamino)sulfonyl]ethyl}-N-[4-fluoro-2-(methylthio)benzyl]-4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxamide
In a manner similar to that described in Example 2, methyl 1-{2-[(dimethylamino)sulfonyl]ethyl}-4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylate (0.3 g, 0.84 mmol) was suspended in 8 mL of absolute EtOH and treated with 1-[4-fluoro-2-(methylthio)phenyl]methanamine (0.21 g, 1.3 mmol). The mixture was brought to reflux for 4.5 hours, cooled, and the solids collected and washed with a little cold EtOH to give the product as a white solid.

reactant | methyl 1-{2-[(dimethylamino)sulfonyl]ethyl}-4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylate | 0.84 mmol, 0.3 g | CN(S(=O)(=O)CCN1C(C(=C(C2=NC=CC=C12)O)C(=O)OC)=O)C | C14H17N3O6S
reactant | 1-[4-fluoro-2-(methylthio)phenyl]methanamine | 1.3 mmol, 0.21 g | FC1=CC(=C(C=C1)CN)SC | C8H10FNS
solvent | EtOH | 8 mL | CCO | C2H6O
product | 1-{2-[(dimethylamino)sulfonyl]ethyl}-N-[4-fluoro-2-(methylthio)benzyl]-4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxamide | CN(S(=O)(=O)CCN1C(C(=C(C2=NC=CC=C12)O)C(=O)NCC1=C(C=C(C=C1)F)SC)=O)C | C21H23FN4O5S2
